US04808713
0.51 g of 2-amino-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (racemate B) was dissolved in 4 ml of water. 1.37 g of 2-oxo-4-phenylbutyric acid were added and the mixture was adjusted to pH 6 using 2N aqueous sodium hydroxide solution. 0.33 g of sodium cyanoborohydrde was then added and the mixture was left to stir at room temperature for 22 hours. The product was absorbed on to a strong acidic ion-exchange resin and eluted with water containing 2% pyridine to give 0.62 g of crude product. Crystallization from water gave 0.3 g (32%) of 2-(1-carboxy-3-phenylpropylamino)-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (2 racemates: racemates C and D) in the form of a white solid.

reactant | 2-amino-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.51 g | NC1C(N2N(CCCC2C(=O)O)C1)=O | C8H13N3O3
reactant | 2-oxo-4-phenylbutyric acid | 1.37 g | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium | 0.33 g | [Na] | Na
solvent | water | 4 ml | O | H2O
product | 2-(1-carboxy-3-phenylpropylamino)-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.3 g, 32% | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(N2N(CCCC2C(=O)O)C1)=O | C18H23N3O5
